US08183275B2
To a stirred suspension of lithium aluminum hydride (7.8 g, 0.20 mol) in THF (350 mL) was added 2-allyl-2-ethylmalonic acid diethyl ester (23.5 g, 0.10 mol) in THF (150 mL) over 2 h. After stirring at rt for 2 days, the reaction was carefully quenched with dilute sulfuric acid (7%, 250 mL). The product was extracted with diethyl ether (3×100 mL) and ethyl acetate (3×100 mL), and the combined extracts were washed with brine (300 mL), dried over sodium sulfate and concentrated to give 2-allyl-2-ethylpropane-1,3-diol.

reactant | lithium aluminum hydride | 0.20 mol, 7.8 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 2-allyl-2-ethylmalonic acid diethyl ester | 0.10 mol, 23.5 g | C(C)OC(C(C(=O)OCC)(CC)CC=C)=O | C12H20O4
solvent | THF | 350 mL | C1CCOC1 | C4H8O
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | 2-allyl-2-ethylpropane-1,3-diol | C(C=C)C(CO)(CO)CC | C8H16O2
